US08877760B2
To a solution of (Z)-3-amino-3-phenylacrylonitrile (95 mg, 0.660 mmol) in EtOH (1.0 mL) and THF (1.0 mL) in a sealed tube, H2S gas was bubbled through for 5 min. It was then stirred at 90 C for 20 h. The mixture was concentrated in vacuo. The residue was dissolved in MeOH (2.0 mL), aq. H2O2 (30%, 0.5 mL) was added. After being stirred at room temperature for 2 min, the reaction was completed. The mixture was concentrated in vacuo. The residue was purified by HPLC to give 3-phenylisothiazol-5-amine (22 mg).

reactant | (Z)-3-amino-3-phenylacrylonitrile | 0.660 mmol, 95 mg | N\C(=C/C#N)\C1=CC=CC=C1 | C9H8N2
reactant | H2S | S | H2S
solvent | EtOH | 1.0 mL | CCO | C2H6O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 3-phenylisothiazol-5-amine | 22 mg | C1(=CC=CC=C1)C1=NSC(=C1)N | C9H8N2S
